US07781436B2
(6-Chloro-1-methanesulfonyl-1H-indol-3-yl)-[4-(2-methoxy-phenyl)-piperidin-1-yl]-methanone
To a solution of 0.035 g (0.09 mmol) (6-chloro-1H-indol-3-yl)-[4-(2-methoxy-phenyl)-piperidin-1-yl]-methanone in 2 ml N,N-dimethylformamide were added 0.005 g (0.10 mmol) sodium hydride (50% in oil). After 45′, 0.008 ml (0.10 mmol) methanesulfonyl chloride were added. The reaction mixture was quenched with water after 3 h and extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with water (2×30 ml) and brine (1×30), dried over sodium sulfate and concentrated to dryness. The residue was chromatographed (loaded as a solution in toluene; Flashpac 5 g; n-heptane/ethyl acetate 100:0→75:25) to give the title compound (0.007 g; 17%) as a light yellow solid.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2-methoxy-phenyl)-piperidin-1-yl]-methanone | 0.09 mmol, 0.035 g | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1)OC | C21H21ClN2O2
reactant | sodium hydride | 0.10 mmol, 0.005 g | [H-].[Na+]
reactant | methanesulfonyl chloride | 0.10 mmol, 0.008 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (6-Chloro-1-methanesulfonyl-1H-indol-3-yl)-[4-(2-methoxy-phenyl)-piperidin-1-yl]-methanone | 0.007 g, 17% | ClC1=CC=C2C(=CN(C2=C1)S(=O)(=O)C)C(=O)N1CCC(CC1)C1=C(C=CC=C1)OC | C22H23ClN2O4S
